US07563920B2
The kit includes a lyophilized mixture of a copper complex of MIBI (tetrakis(2-methoxyisobutylisonitrile)copper(I) tetrafluoroborate ([Cu(MIBI)4]BF4)) as the active ingredient, sodium citrate dihydrate as a buffer, L-cysteine hydrochloride monohydrate as a stabilization aid, mannitol as a lyophilization aid, and stannous chloride dihydrate as a reducing agent. Prior to use, the lyophilized mixture is reconstituted with sodium pertechnetate (99mTc) and boiled to form technetium (99mTc) Sestamibi. The U.S. Pharmacopoeia (29th Ed.) requires that a mean of not less than 90% (corrected area percentage) of the total radioactivity is represented by 99mTc-Sestamibi, and a mean of not more than 5% (corrected area percentage) of the total radioactivity is present as 99mTc pentamibi dimethylvinyl isonitrile.

reactant | MIBI | CC(C)(C[N+]#[C-])OC | C6H11NO
reactant | sodium citrate dihydrate | O.O.C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
reactant | L-cysteine hydrochloride monohydrate | O.Cl.N[C@@H](CS)C(=O)O
reactant | mannitol | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | sodium pertechnetate | [Tc](=O)(=O)(=O)[O-].[Na+]
product | technetium (99mTc) Sestamibi | CC(C)(CN=[CH-])OC.CC(C)(CN=[CH-])OC.CC(C)(CN=[CH-])OC.CC(C)(CN=[CH-])OC.CC(C)(CN=[CH-])OC.CC(C)(CN=[CH-])OC.[Tc+6] | InChI=1S/6C6H12NO.Tc/c6*1-6(2,8-4)5-7-3;/h6*3H,5H2,1-2,4H3;/q6*-1;+6
